US08563541B2
Step 2: 2,6-dichloro-4-[(triisopropylsilyl)oxy]methylbenzaldehyde
[(3,5-Dichlorobenzyl)oxy](triisopropyl)silane (14.8 g, 44.4 mmol) was stirred in tetrahydrofuran (30 mL) and cooled to −78° C. A solution of n-butyllithium (30.5 mL, 1.6 M in hexane, 48.8 mmol) was added dropwise and the mixture was stirred at −78° C. for 1 hour. N,N-dimethylformamide (4.47 mL, 57.7 mmol) was added and the mixture was allowed to warm to room temperature. A solution of 1 N HCl saturated with NaCl (15 mL) was added. The organic layer was separated and concentrated. The crude product was purified by chromatography on silica gel eluting with hexane to 10% ethyl acetate/hexane. Pure fractions were combined and concentrated to provide the desired product as a white solid (13.0 g, 81%). 1H NMR (CDCl3) δ 10.43 (s, 1H), 7.39 (s, 2H), 4.80 (s, 2H), 1.18 (m, 3H), 1.03 (s, 18H). LC/MS: 361 (M+H)+.

reactant | [(3,5-Dichlorobenzyl)oxy](triisopropyl)silane | 44.4 mmol, 14.8 g | ClC=1C=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C(C1)Cl | C16H26Cl2OSi
reactant | n-butyllithium | 48.8 mmol, 1.6 M, 30.5 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 57.7 mmol, 4.47 mL | CN(C=O)C | C3H7NO
reactant | HCl | 1 N | Cl | ClH
reactant | NaCl | 15 mL | [Na+].[Cl-]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2,6-dichloro-4-[(triisopropylsilyl)oxy]methylbenzaldehyde | 13.0 g, 81% | ClC1=C(C=O)C(=CC(=C1)CO[Si](C(C)C)(C(C)C)C(C)C)Cl | C17H26Cl2O2Si
